US08937078B2
Step E: Preparation of 1-[6-(2,6-dimethyl-phenoxy)-7-methyl-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid.
A mixture of 1-[6-(2,6-dimethyl-phenoxy)-7-methyl-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.25 g, 0.60 mmol), 1M aq. KOH (5.0 mL) and THF (5.0 mL) was stirred for 4 h. The mixture was concentrated to remove the THF and the aqueous residue was acidified to pH 2 with 1M aq. HCl. The resulting precipitate was collected by filtration to provide the titled compound (0.22 g, 93%). MS (ESI): mass calcd. for C21H18N4O4, 390.1; m/z found, 391.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 12.99 (s, 1H), 12.72 (s, 1H), 8.90 (d, J=13.2 Hz, 1H), 8.22 (s, 1H), 7.68 (s, 1H), 7.25 (d, J=7.4 Hz, 2H), 7.18 (dd, J=8.3, 6.7 Hz, 1H), 6.78 (s, 1H), 2.55 (s, 3H), 2.07 (d, J=8.2 Hz, 6H).

reactant | 1-[6-(2,6-dimethyl-phenoxy)-7-methyl-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.60 mmol, 0.25 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=C(C=C2C(N1)=O)OC1=C(C=CC=C1C)C)C | C23H22N4O4
reactant | KOH | 1M, 5.0 mL | [OH-].[K+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-[6-(2,6-dimethyl-phenoxy)-7-methyl-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid | 0.22 g, 93% | CC1=C(OC=2C=C3C(NC(=NC3=CC2C)N2N=CC(=C2)C(=O)O)=O)C(=CC=C1)C | C21H18N4O4
